US08871753B2
Step C: 3-Amino-N-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}benzenesulfonamide
To a solution N-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}-3-nitrobenzenesulfonamide (0.5 g, 1.0 mmol) in water (0.9 mL), methanol (4.4 mL) and acetic acid (1.7 mL) was added iron (250 mg, 4.5 mmol) powder in one portion. The mixture was stirred at 0° C. for 1 h and then mixed with celite and filtered. The crude cake was washed with EtOAc. The brown filtrate was concentrated and mixed with EtOAc and NaHCO3/water. The aqueous phase was extracted once with EtOAc. The organic phases were combined and dried over Na2SO4. The volatiles were removed under vacuum to give the desired product (0.45 g, 100%). LCMS for C16H13Cl2N5O2S (M+H)+: m/z=410.0, 411.9. 1H NMR (400 MHz, DMSO-d6): δ 9.57 (s, 1H), 9.42 (s, 1H), 8.33 (s, 1H), 8.16 (s, 1H), 7.91 (s, 1H), 7.29 (dd, J=7.9, 7.6 Hz, 1H), 7.15 (d, J=7.9 Hz, 1H), 7.10-7.05 (m, 2H), 6.90 (dd, J=8.2, 0.9 Hz, 1H), 6.84-6.81 (m, 1H), 4.11 (s, 2H).

reactant | N-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}-3-nitrobenzenesulfonamide | 1.0 mmol, 0.5 g | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)NS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])Cl | C16H11Cl2N5O4S
solvent | water | 0.9 mL | O | H2O
solvent | methanol | 4.4 mL | CO | CH4O
solvent | acetic acid | 1.7 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 4.5 mmol, 250 mg | [Fe] | Fe
product | 3-Amino-N-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}benzenesulfonamide | 0.45 g, 100% | NC=1C=C(C=CC1)S(=O)(=O)NC1=CC(=CC=C1)NC1=NC(=NC=C1Cl)Cl | C16H13Cl2N5O2S
